US04433152
A mixture of 4.7 g of 1-amidino-4-piperidinepropionic acid hydrochloride, 3.5 g of p-hydroxybenzene sulfonamide, 4.1 g of dicyclohexylcarbodiimide, 10 ml of dry dimethylformamide and 20 ml of dry pyridine was stirred at room temperature for 24 hours. After removal of any insoluble materials, the solvent was removed. The residue was treated with ethyl acetate and then with ether to give crystals. The crystals were dissolved in methanol, and any insoluble materials were removed by filtration. Ether was added to the filtrate to obtain 4.5 g (yield: 57.7%) of p-aminosulfonylphenyl 1-amidino-4-piperidinepropionate hydrochloride as yellow crystals having a melting point of 206° to 209° C.

reactant | 1-amidino-4-piperidinepropionic acid hydrochloride | 4.7 g | Cl.C(N)(=N)N1CCC(CC1)CCC(=O)O
reactant | p-hydroxybenzene sulfonamide | 3.5 g | OC1=CC=C(C=C1)S(=O)(=O)N | C6H7NO3S
reactant | dicyclohexylcarbodiimide | 4.1 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | methanol | CO | CH4O
solvent | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
product | p-aminosulfonylphenyl 1-amidino-4-piperidinepropionate hydrochloride | 4.5 g, yield: 57.7% | Cl.C(N)(=N)N1CCC(CC1)CCC(=O)OC1=CC=C(C=C1)S(=O)(=O)N | InChI=1S/C15H22N4O4S.ClH/c16-15(17)19-9-7-11(8-10-19)1-6-14(20)23-12-2-4-13(5-3-12)24(18,21)22;/h2-5,11H,1,6-10H2,(H3,16,17)(H2,18,21,22);1H
